US07404969B2
N,N-Dimethyl-3,4-dilinoleyloxybenzylamine, 4b
To a solution of triethylamineamine (2.0 mL, 14 mmol) in ethanol (20 mL) was added dimethylamine hydrochloride (1.63 g, 20 mmol), titanium tetraisopropoxide (5.96 mL, 20 mmol) and 3,4-dilinoleyloxybenzaldehyde (6.35 g, 10 mmol). The mixture was allowed to stir under argon for 10 h at room temperature. Sodium borohydride (0.57 g, 15 mmol) was added to the reaction mixture which was then allowed to stir at room temperature overnight. 6N Aqueous ammonia (30 mL), was added slowly to the reaction mixture followed by dichloromethane. The reaction mixture was filtered. The filtrate was dried over K2CO3, filtered and concentrated. The resultant oil was purified via flash chromatography (2-10% acetone in dichloromethane, 0.5% TEA gradient) to afford 4.94 g (74%) of a yellow oil.

reactant | dimethylamine hydrochloride | 20 mmol, 1.63 g | Cl.CNC
reactant | 3,4-dilinoleyloxybenzaldehyde | 10 mmol, 6.35 g | C(CCCCCCC\C=C/C\C=C/CCCCC)OC=1C=C(C=O)C=CC1OCCCCCCCC\C=C/C\C=C/CCCCC | C43H70O3
reactant | Sodium borohydride | 15 mmol, 0.57 g | [BH4-].[Na+]
reactant | ammonia | 6N, 30 mL | N | H3N
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | titanium tetraisopropoxide | 20 mmol, 5.96 mL | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N-Dimethyl-3,4-dilinoleyloxybenzylamine | 4.94 g, 74% | CN(C)CC1=CC(=C(C=C1)OCCCCCCCC\C=C/C\C=C/CCCCC)OCCCCCCCC\C=C/C\C=C/CCCCC | C45H77NO2
